US07888364B2
2 g of 2-chloro-4-fluorobenzonitrile was used in Procedure Q with 2-propanethiol to afford 2-chloro-4-(isopropylthio)benzonitrile. 1.6 g of 2-chloro-4-(isopropythio)benzonitrile was reacted via Procedure T to give 2-chloro-4-(isopropylthio)benzoic acid. 1 g of 2-chloro-4-(isopropylthio)benzoic acid was reacted via Procedure R to give 2-chloro-4-(isopropylsulfonyl)benzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(isopropylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(isopropylsulfonyl)benzamide. MS (Q1) 449.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-(isopropylsulfonyl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C(C)C | C10H11ClO4S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(isopropylsulfonyl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)S(=O)(=O)C(C)C | C21H18Cl2N2O3S
